US07414061B2
2-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-N-prop-2-ynyl-benzamide
As described for Example 71, prop-2-ynylamine was converted, using 2-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid (100 mg, 0.29 mmol) instead of 4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid, to the title compound (28 mg, 25%) which was obtained as an off-white solid. MS: m/e=383.1 [M+H]+.

reactant | prop-2-ynylamine | C(C#C)N | C3H5N
reactant | 2-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid | 0.29 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=C(C(=O)O)C=CC=C1 | C20H15N3O3
product | 2-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-N-prop-2-ynyl-benzamide | 28 mg, 25% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=C(C(=O)NCC#C)C=CC=C1 | C23H18N4O2
